US08183250B2
5-Oxo-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxylic acid
A mixture of 2-hydrazinylbenzoic acid hydrochloride (1.05 g, 5.57 mmol), (E)-ethyl 2-cyano-3-ethoxyacrylate (0.9 g, 5.32 mmol) and sodium acetate (0.457 g, 5.57 mmol) in DMF (7 mL) was heated to 140° C. for 2 h then cooled. Water (5 mL) was added and the mixture was stirred at rt for 1 h then filtered. The solid was washed with H2O, EtOH and Et2O then dried. The solid was dissolved in EtOH (10 mL), treated with a 1M solution of sodium hydroxide (23 mL, 23 mmol) and the mixture was heated at 80° C. for 18 hr. The mixture was filtered hot then cooled and acidified with acetic acid and 10% HCl. The precipitated product was filtered, washed with H2O and Et2O, dried well and used without any further purification.

reactant | 2-hydrazinylbenzoic acid hydrochloride | 5.57 mmol, 1.05 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | (E)-ethyl 2-cyano-3-ethoxyacrylate | 5.32 mmol, 0.9 g | C(#N)/C(/C(=O)OCC)=C\OCC | C8H11NO3
reactant | sodium acetate | 5.57 mmol, 0.457 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 23 mmol, 23 mL | [OH-].[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | Water | 5 mL | O | H2O
product | 5-Oxo-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxylic acid | O=C1NC=2N(C3=CC=CC=C13)N=CC2C(=O)O | C11H7N3O3
